* LCCL-S @ 6.78 MHz  (Vin=288Vrms fund, RL=1.61ohm)
Vin S 0 SINE(0 407.4 6780000)
Lf  S  P  4.142e-07
Cf  P  0  1.141e-09
C1  P  T1 2.829e-10
* --- Tx coil ---  (Im(Z11) 유효: L1e=2.362uH, R1=0.09362)
Rtx T1 Tm 0.09362
Ltx Tm 0  2.362e-06
* --- Rx coil ---  (Im(Z22) 유효: L2e=2.509uH, R2=0.05745)
Lrx R1n 0 2.509e-06
Rrx R1n R1a 0.05745
C2  R1a R2n 2.196e-10
RL  R2n 0  1.613
K1  Ltx Lrx 0.0198
.ac lin 401 6102000 7458000
.end