* HFSS 등가회로 @ 6.78 MHz  (각 코일: (R1+L)//C//R2)
* ---- Tx ----
R1t N1  Na 0.03577
Ltx Na 0  2.111e-06
Ctx N1 0  7.137e-12
R2t N1 0  2.147e+05
* ---- Rx ----
R1r N2 Nb 0.0419
Lrx Nb 0  2.613e-06
Crx N2 0  1.288e-11
R2r N2 0  4.992e+05
* ---- coupling ----
K1 Ltx Lrx 0.0235
