* C:\Users\harry\Projects\LtspiceProject\Examples\AC해석예제.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
R1 N001 0 1.414
R2 N004 0 1.414
I1 0 N004 AC 1
I2 0 N002 AC 1
L1 N002 N003 {Lr} Rser=1m
C1 N003 0 {Cr}
R3 0 N002 50
I3 0 N005 AC 1
L2 N005 0 {Lr} Rser=1m
C2 N005 0 {Cr}
R4 0 N005 50
I4 0 N008 AC 1
L3 NC_01 N006 10µ Rser=1m
C3 N006 0 56.42p
L5 N011 0 1.026µ Rser=1m
L6 N011 N012 2.874µ Rser=1m
C5 N013 N012 191.732p
L7 N021 N022 1.974µ Rser=1m
L8 N022 0 1.026µ Rser=1m
L9 N022 N023 2.874µ Rser=1m
C7 N024 N023 191.732p
R5 N024 0 50
V3 N019 0 AC 1
C6 N021 N020 279.1475p
L10 N019 N020 10µ Rser=1m
C8 N020 0 55.10p
L4 N010 N011 1.974µ Rser=1m
C4 N010 N009 279.1475p
L11 N008 N009 10µ Rser=1m
C9 N009 0 55.10p
R6 N013 0 43.71
I5 0 N007 AC 1
L12 N007 0 2µ Rser=1m
I6 N025 N014 AC 1
L13 N014 N015 1.6µ Rser=1m
C10 N015 N025 344.4p
C11 N016 N015 23p
L14 N016 0 23.9µ Rser=1m
L15 0 N017 10.465µ Rser=1m
C12 N018 N017 52.655p
R7 N018 N026 50
R8 0 N025 3.4
R9 N026 0 1.48
I7 N032 N027 AC 1
L16 N027 N028 1.6µ Rser=1m
C13 N028 N032 344.4p
C14 N029 N028 23p
L17 N029 0 23.9µ Rser=1m
L18 0 N030 10.465µ Rser=1m
C15 N031 N030 52.655p
R10 N031 N033 50
R11 0 N032 3.4
R12 N033 0 1.48
C16 N029 0 10p
I8 0 N034 AC 1
L19 N034 N035 10µ Rser=1m
C17 N034 0 10p
R13 N035 0 3.4
.param fsw=6.78e6 f_low=fsw/2 f_high=fsw*10
.param N_sweep=501
.ac dec {N_sweep} {f_low} {f_high}
* 루프에 전원 하나만 연결하기
* V=ZI=Z 임피던스
* I= V/Z = 1/Z 어드미턴스
* 3dB 뜨는거 확인하기
* LC공진회로
.param Lr=1e-6 Cr=1/Lr/39.4784176/fsw/fsw
* LC공진회로
* LC공진회로
* V=ZI=Z 임피던스
k L14 L15 0.1
.backanno
.end
