* C:\Users\harry\LtspiceProject\IPT\ipt1.asc
* Generated by LTspice 26.0.1 for Windows.
I1 0 N001 SINE(0 {Im} {f})
L1 N001 0 {La} Rser=1m
R1 N001 0 50
I2 0 N002 SINE(0 {Im} {f})
L2 0 N002 {La} Rser=1m
R2 N002 0 50
L3 0 N003 {Lb} Rser=1m
R3 N003 0 50
I3 0 N004 SINE(0 {Im} {f})
R4 N004 0 50
R5 N006 0 50
L4 N004 N005 {La-M} Rser=1m
L5 N005 0 {M} Rser=1m
L6 N005 N006 {Lb-M} Rser=1m
I4 0 lat SINE(0 {Im} {f})
R6 lat 0 50
L7 lat lab {La} Rser=1m
L8 lbt lbb {Lb} Rser=1m
E1 lab 0 lbt lbb {gain2}
E2 lbb 0 lat lab {gain1}
R7 lbt 0 50
.param Im=10 La=1.1732u
.param f=6.78e6 T={1/f} k_coeff=0.5
.tran 0 {T*50} {T*0} {T/60}
k L2 L3 {k_coeff}
.param M={{k_coeff}*{sqrt({La}*{Lb})}}
.param gain1={M/La} gain2={M/Lb}
.param Lb=1.5*La
.backanno
.end
